US08076359B2
Step 5: N-Cyclopropyl-3,5-bis(3-methoxypropyl)benzamide
To a solution of 3,5-bis(3-methoxypropyl)benzoic acid (1 eq.) from the previous step in DCM (0.1 M) was added cyclopropanamine (1.3 eq.), o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (aka. HATU, 1.5 eq.), and triethylamine (3 eq.). After stirring at rt for 18 h, the reaction was diluted with EtOAc. The organic extract was washed with 10% aqueous HCl solution, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 50%→>70% EtOAc in Hex) to afford the title compound as an oil.

reactant | 3,5-bis(3-methoxypropyl)benzoic acid | 1 eq. | COCCCC=1C=C(C(=O)O)C=C(C1)CCCOC | C15H22O4
reactant | cyclopropanamine | 1.3 eq. | C1(CC1)N | C3H7N
reactant | o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Cyclopropyl-3,5-bis(3-methoxypropyl)benzamide | C1(CC1)NC(C1=CC(=CC(=C1)CCCOC)CCCOC)=O | C18H27NO3
